US04695578
1,2,3,9-Tetrahydro-9-methyl-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one hydrochloride dihydrate
1,2,3,9-Tetrahydro-9-methyl-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one (18.3 g) in a hot mixture of isopropanol (98 ml) and water (18.3 ml) was treated with concentrated hydrochloric acid (6.25 ml). The hot mixture was filtered and the filtrate diluted with isopropanol (90 ml) and stirred at room temperature for 17 h, cooled to 2° and the solid filtered off (21.6 g). A sample (6 g) was recrystallized from a mixture of water (6 ml) and isopropanol (10 ml) to give the title compound as a white crystalline solid (6 g) m.p. 178.5°-179.5°.

reactant | 1,2,3,9-Tetrahydro-9-methyl-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one | 18.3 g | CN1C2=CC=CC=C2C=2C(C(CCC12)CN1C(=NC=C1)C)=O | C18H19N3O
reactant | isopropanol | 98 ml | C(C)(C)O | C3H8O
reactant | hydrochloric acid | 6.25 ml | Cl | ClH
solvent | water | 18.3 ml | O | H2O
product | 1,2,3,9-Tetrahydro-9-methyl-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one hydrochloride dihydrate | 6 g | O.O.Cl.CN1C2=CC=CC=C2C=2C(C(CCC12)CN1C(=NC=C1)C)=O | InChI=1S/C18H19N3O.ClH.2H2O/c1-12-19-9-10-21(12)11-13-7-8-16-17(18(13)22)14-5-3-4-6-15(14)20(16)2;;;/h3-6,9-10,13H,7-8,11H2,1-2H3;1H;2*1H2
